US05962438
Under a nitrogen atmosphere, triethylamine (13.8 ml), dimethylcarbamoyl chloride (9 ml) and 4-dimethylaminopyridine (125 mg) were added in that order to a solution of erythro 3-(3-nitro-4-hydroxyphenyl)-4-(4-hydroxyphenyl)hexane (4.21 g) in dry N,N-dimethylformamide (90 ml) at 0-5° C., and the resulting mixture was heated to room temperature and stirred for 2 days. The reaction mixture was diluted with water and extracted twice with a mixed solvent of diethyl ether and ethyl acetate. The organic layer was washed with water and then a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure to obtain erythro 3-(3-nitro-4-dimethylcarbamoyloxyphenyl)-4-(4-dimethylcarbamoyloxyphenyl)hexane (5.14 g, quantitative yield).

reactant | triethylamine | 13.8 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylcarbamoyl chloride | 9 ml | CN(C(=O)Cl)C | C3H6ClNO
reactant | 3-(3-nitro-4-hydroxyphenyl)-4-(4-hydroxyphenyl)hexane | 4.21 g | [N+](=O)([O-])C=1C=C(C=CC1O)C(CC)C(CC)C1=CC=C(C=C1)O | C18H21NO4
reactant | N,N-dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
catalyst | 4-dimethylaminopyridine | 125 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | O | H2O
product | 3-(3-nitro-4-dimethylcarbamoyloxyphenyl)-4-(4-dimethylcarbamoyloxyphenyl)hexane | 5.14 g, quantitative yield | [N+](=O)([O-])C=1C=C(C=CC1OC(N(C)C)=O)C(CC)C(CC)C1=CC=C(C=C1)OC(N(C)C)=O | C24H31N3O6
